US07179823B1
A mixture of diethyl [1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate (4.09 g), 1N aqueous sodium hydroxide solution (30 ml), tetrahydrofuran (30 ml), and ethanol (30 ml) was refluxed for 1 hour. After cooling, 1N hydrochloric acid (30 ml) was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless oily substance was dissolved in pyridine (50 ml), and the mixture was stirred at 110° C. for 2 hours. After removing pyridine under reduced pressure, ethyl acetate was added to the residue. The resulting solution was washed successively with dilute hydrochloric acid and saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain 3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propionic acid (3.25 g, yield: 95%). This was recrystallized from ethyl acetate-hexane. Melting point: 133˜134° C.

reactant | diethyl [1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate | 4.09 g | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)CC(C(=O)OCC)C(=O)OCC)C=2SC=CC2)C=C1 | C32H31N3O5S2
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-[1-[4-(2-phenyl-4-thiazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]propionic acid | 3.25 g, yield: 95% | C1(=CC=CC=C1)C=1SC=C(N1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C=2SC=CC2)C=C1 | C27H23N3O3S2
